US06531491B1
To 3-formyl-1H-indazole-6-carboxylic acid (2.35 g, 12.42 mmol) in DMF (60mL) was added 1,2-phenylenediamine (12.42 mmol, 1.34 g) and sulfur powder (1.1 eq, 13.66 mmol). This mixture was then heated to reflux for 6 hours. The reaction was followed by TLC and LC-MS. After cooling, water (50 mL) was added to the reaction and the brown precipitate which formed was filtered and collected to provide 3.1 g (90%) of 3-(1H-benzoimidazol-2-yl)-1H-indazole-6-carboxylic acid. 1H NMR (DMSO-d6) δ 14.01 (1H, s), 8.58 (1H, d, J=8.5 Hz), 8.24 (1H, s), 7.87 (1H, d, J=8.7 Hz), 7.64 (2H, m), 7.25 (2H, m). MS (APCI positive) 279.

reactant | 3-formyl-1H-indazole-6-carboxylic acid | 12.42 mmol, 2.35 g | C(=O)C1=NNC2=CC(=CC=C12)C(=O)O | C9H6N2O3
reactant | 1,2-phenylenediamine | 12.42 mmol, 1.34 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sulfur | 13.66 mmol, 1.1 eq | [S] | S
reactant | water | 50 mL | O | H2O
solvent | DMF | 60mL | CN(C)C=O | C3H7NO
product | 3-(1H-benzoimidazol-2-yl)-1H-indazole-6-carboxylic acid | 3.1 g, 90% | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC(=CC=C21)C(=O)O | C15H10N4O2
